US06531476B1
19.86 g (86 mmol) of 2-(N,N-diethylaminocarbonyloxymethyl)piperazine dihydrochloride prepared in accordance with step 2.2 of Example 2 are dissolved in 400 ml of CH2Cl2 and 42 ml (3.5 equivalents) of triethylamine in a 1 liter ground-necked conical flask on which is fitted an addition funnel, and which is immersed in an ice bath. A solution containing 19.83 g (86 mmol) of 3,4,5-trimethoxybenzoyl chloride in 200 ml of CH2Cl2 is added dropwise to the solution thus obtained. The reaction is monitored by thin-layer chromatography, using a CH2Cl2/MeOH/NH4OH mixture (80/20/0.5 v/v/v) as eluent, until the starting amine has disappeared. The solution is then washed with saturated NaHCO3 solution and then with water until a neutral pH is obtained. The organic phase is then dried (MgSO4), filtered and evaporated and the residue obtained is chromatographed on a column of silica gel with an MeOH/CH2Cl2 mixture (1/99 v/v) as eluent. 18.75 g of 4-(3′,4′,5′-trimethoxybenzoyl)-2-(N,N-diethylaminocarbonyloxymethyl)piperazine are thus obtained in the form of a viscous oil. Yield: 53.33%.

reactant | 2-(N,N-diethylaminocarbonyloxymethyl)piperazine dihydrochloride | 86 mmol, 19.86 g | Cl.Cl.C(C)N(CC)C(=O)OCC1NCCNC1
reactant | triethylamine | 42 ml, 3.5 equivalents | C(C)N(CC)CC | C6H15N
reactant | 3,4,5-trimethoxybenzoyl chloride | 86 mmol, 19.83 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | 4-(3′,4′,5′-trimethoxybenzoyl)-2-(N,N-diethylaminocarbonyloxymethyl)piperazine | 18.75 g, Yield: 53.33% | COC=1C=C(C(=O)N2CC(NCC2)COC(=O)N(CC)CC)C=C(C1OC)OC | C20H31N3O6
